US08685981B2
(13b) 2-(Tetrahydro-2H-pyran-4-yloxy)ethanol
1,4,8-Trioxaspiro[4.5]decane (0.43 g, 3.0 mmol) produced in Reference Example 13 (13a) was dissolved in tetrahydrofuran (1.0 mL), and the resulting mixture was cooled to −50° C. Subsequently, a 1.0M solution of borane-tetrahydrofuran complex in tetrahydrofuran (3.6 mL) and trimethylsilyl trifluoromethanesulfonate (33 mg, 0.15 mmol) were added. The resulting mixture was warmed to room temperature, followed by stirring for 18 hours. A small amount of water was added, and then the resulting mixture was purified by basic silica gel column chromatography (hexane:ethyl acetate, 100:0-0:100, V/V) to give the desired title compound (0.39 g, yield 88%).

reactant | 1,4,8-Trioxaspiro[4.5]decane | 3.0 mmol, 0.43 g | O1CCOC12CCOCC2 | C7H12O3
reactant | trimethylsilyl trifluoromethanesulfonate | 0.15 mmol, 33 mg | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | water | O | H2O
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.6 mL | O1CCCC1 | C4H8O
product | 2-(Tetrahydro-2H-pyran-4-yloxy)ethanol | 0.39 g, yield 88% | O1CCC(CC1)OCCO | C7H14O3
